US07820673B2
133a) tert-butyl 4-(2-((2Z)-2-(methylimino)-1,3-thiazol-3(2H)-yl)ethyl)-1-piperidinecarboxylate
To a solution of tert-butyl 4-(2-bromoethyl)-1-piperidinecarboxylate (D. Brundish et al., J. Med. Chem., 42, 4584 (1999); 5.0 g) and 2-methylaminothiazole (O. Kemal et al., J. Chem. Soc. Perkin I, 5, 1569 (1981); 3.9 g) in DMF (50 ml) was added potassium iodide (5.7 g), and mixed at 80° C. for 12 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in chloroform and a saturated aqueous potassium hydrogen carbonate solution. The organic layer was collected by separation, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified with silica gel column to obtain the title compound as a brown oil (1.25 g, 22%).

reactant | tert-butyl 4-(2-bromoethyl)-1-piperidinecarboxylate | 5.0 g | BrCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H22BrNO2
reactant | 2-methylaminothiazole | CNC=1SC=CN1 | C4H6N2S
reactant | potassium iodide | 5.7 g | [I-].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2-((2Z)-2-(methylimino)-1,3-thiazol-3(2H)-yl)ethyl)-1-piperidinecarboxylate | 1.25 g, 22% | C\N=C\1/SC=CN1CCC1CCN(CC1)C(=O)OC(C)(C)C | C16H27N3O2S
